* model name check

V1 1 0 1
R1 1 2 1k

D1 2 0 DMOD
.model DMOD D (is=1e-13 bv=50)
* o.k.

D2 2 0 _DMOD
.model _DMOD D (is=1e-13 bv=50)
* o.k.

D3 2 0 1n4001
.model 1n4001 D (is=1e-13 bv=50)
* o.k.

D4 2 0 22N4
.model 22N4 D (is=1e-13 bv=50)
* o.k.

D5 2 0 1e34
.model 1e34 D (is=1e-13 bv=50)
* not o.k.

D6 2 0 74ls4444
.model 74ls4444 D (is=1e-13 bv=50)
* o.k.

D7 2 0 ^274ls4444
.model ^274ls4444 D (is=1e-13 bv=50)
* not o.k.

D8 2 0 74!4444
.model 74!4444 D (is=1e-13 bv=50)
* o.k.

D9 2 0 12p4444
.model 12p4444 D (is=1e-13 bv=50)
* o.k.

D10 2 0 17n
.model 17n D (is=1e-13 bv=50)
* not o.k.

D11 2 0 17nB
.model 17nB D (is=1e-13 bv=50)
* o.k.

D12 2 0 17e12n
.model 17e12n D (is=1e-13 bv=50)
* not o.k.

D13 2 0 17e12Meg
.model 17e12Meg D (is=1e-13 bv=50)
* not o.k.

D14 2 0 17e12Megg
.model 17e12Megg D (is=1e-13 bv=50)
* o.k.

D15 2 0 20.5pF
.model 20.5pF D (is=1e-13 bv=50)
* not o.k.

.end


